US08138175B2
B) [(R)-2-Triethylsilanyloxy-3-((S)-4-triethylsilanyloxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-carbamic acid benzyl ester
Triethylchlorosilane (351 mg, 2.33 mmol) was added to a solution of [(R)-2-hydroxy-3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-carbamic acid benzyl ester (260 mg, 0.78 mmol), imidazole (264 mg, 3.89 mmol), and 4-(dimethylamino)pyridine (1.9 mg, 16 μmol) in N,N-dimethylformamide at RT, then after 90 min the reaction mixture was partitioned between EtOAc and sat. aq. NaHCO3 solution. The organic layer was washed with brine, dried (MgSO4), filtered, and evaporated. Chromatography (SiO2; heptane/EtOAc 7:3) afforded the title compound (397 mg, 91%). Light yellow liquid, MS: 563.4 (M+H)+.

reactant | Triethylchlorosilane | 2.33 mmol, 351 mg | C(C)[Si](Cl)(CC)CC | C6H15ClSi
reactant | [(R)-2-hydroxy-3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-carbamic acid benzyl ester | 0.78 mmol, 260 mg | C(C1=CC=CC=C1)OC(NC[C@H](CN1C[C@H](C2(CC2)CC1)O)O)=O | C18H26N2O4
reactant | imidazole | 3.89 mmol, 264 mg | N1C=NC=C1 | C3H4N2
catalyst | 4-(dimethylamino)pyridine | 16 μmol, 1.9 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | [(R)-2-Triethylsilanyloxy-3-((S)-4-triethylsilanyloxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-carbamic acid benzyl ester | 397 mg, 91% | C(C1=CC=CC=C1)OC(NC[C@H](CN1C[C@H](C2(CC2)CC1)O[Si](CC)(CC)CC)O[Si](CC)(CC)CC)=O | C30H54N2O4Si2
